US03957984
7-Cyanomethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid
The title compound was prepared by the reaction of 7-amino-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (3.28 g, 10 mmol) and N-hydroxysuccininimidyl cyanomethylmercaptoacetate (3.4 g, 15 mmol) by the procedure of Example 1.

reactant | 7-amino-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 10 mmol, 3.28 g | NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C10H12N6O3S2
reactant | cyanomethylmercaptoacetate | 15 mmol, 3.4 g | C(#N)CSCC(=O)[O-]
product | 7-Cyanomethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | C(#N)CSCC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C14H15N7O4S3
